US07211586B2
(a) 3-(1,2,3,4-Tetrahydro-isoquinolin-7-yl)-3-(pyrid4-yl)-propionic acid ethyl ester, enantiomer A
A solution of 3-(1,2,3,4-tetrahydro-isoquinolin-7-yl)-3-(pyrid-4-yl)-propionic acid, enantiomer A {Reference Example 18(a)} in ethanol (50 mL) was treated with concentrated hydrochloric acid (two drops) and then heated at reflux temperature, under nitrogen, for 8 hours. The pH of the reaction mixture was adjusted to ˜5 by dropwise addition of sodium bicarbonate solution (5%) and this mixture was then evaporated to give the title compound which was used without further purification.

reactant | 3-(1,2,3,4-tetrahydro-isoquinolin-7-yl)-3-(pyrid-4-yl)-propionic acid | C1NCCC2=CC=C(C=C12)C(CC(=O)O)C1=CC=NC=C1 | C17H18N2O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethanol | 50 mL | C(C)O | C2H6O
catalyst | hydrochloric acid | two drops | Cl | ClH
product | 3-(1,2,3,4-Tetrahydro-isoquinolin-7-yl)-3-(pyrid4-yl)-propionic acid ethyl ester | C(C)OC(CC(C1=CC=NC=C1)C1=CC=C2CCNCC2=C1)=O | C19H22N2O2
